* Ideal crossbar read-energy validation
* rows=128 cols=127 pulse_ns=10
* Each row is collapsed to an equivalent conductance because columns are ideal virtual ground.
Vrow0 row0 0 PULSE(0 0.0289781293612 0 0.001n 0.001n 10n 30n)
Vrow1 row1 0 PULSE(0 -0.0404780923707 0 0.001n 0.001n 10n 30n)
Vrow2 row2 0 PULSE(0 -0.0131547968748 0 0.001n 0.001n 10n 30n)
Vrow3 row3 0 PULSE(0 0.0447449373955 0 0.001n 0.001n 10n 30n)
Vrow4 row4 0 PULSE(0 0.00693791181312 0 0.001n 0.001n 10n 30n)
Vrow5 row5 0 PULSE(0 -0.00383988752855 0 0.001n 0.001n 10n 30n)
Vrow6 row6 0 PULSE(0 -0.00125784323744 0 0.001n 0.001n 10n 30n)
Vrow7 row7 0 PULSE(0 0.00548366773822 0 0.001n 0.001n 10n 30n)
Vrow8 row8 0 PULSE(0 0.0406534578493 0 0.001n 0.001n 10n 30n)
Vrow9 row9 0 PULSE(0 -0.012789626201 0 0.001n 0.001n 10n 30n)
Vrow10 row10 0 PULSE(0 0.0174117473379 0 0.001n 0.001n 10n 30n)
Vrow11 row11 0 PULSE(0 -0.00739434000603 0 0.001n 0.001n 10n 30n)
Vrow12 row12 0 PULSE(0 0.0154026416296 0 0.001n 0.001n 10n 30n)
Vrow13 row13 0 PULSE(0 -0.0105467048758 0 0.001n 0.001n 10n 30n)
Vrow14 row14 0 PULSE(0 0.00447753818148 0 0.001n 0.001n 10n 30n)
Vrow15 row15 0 PULSE(0 0.0329948645023 0 0.001n 0.001n 10n 30n)
Vrow16 row16 0 PULSE(0 0.1 0 0.001n 0.001n 10n 30n)
Vrow17 row17 0 PULSE(0 0.0767981355409 0 0.001n 0.001n 10n 30n)
Vrow18 row18 0 PULSE(0 -0.00403179959675 0 0.001n 0.001n 10n 30n)
Vrow19 row19 0 PULSE(0 -0.0151584268057 0 0.001n 0.001n 10n 30n)
Vrow20 row20 0 PULSE(0 -0.00226391578098 0 0.001n 0.001n 10n 30n)
Vrow21 row21 0 PULSE(0 0.0443511433772 0 0.001n 0.001n 10n 30n)
Vrow22 row22 0 PULSE(0 -0.040312244016 0 0.001n 0.001n 10n 30n)
Vrow23 row23 0 PULSE(0 -0.0222543164325 0 0.001n 0.001n 10n 30n)
Vrow24 row24 0 PULSE(0 0.0199809624045 0 0.001n 0.001n 10n 30n)
Vrow25 row25 0 PULSE(0 -0.0267774258372 0 0.001n 0.001n 10n 30n)
Vrow26 row26 0 PULSE(0 0.0276958400159 0 0.001n 0.001n 10n 30n)
Vrow27 row27 0 PULSE(0 0.0226481991613 0 0.001n 0.001n 10n 30n)
Vrow28 row28 0 PULSE(0 0.0410763924108 0 0.001n 0.001n 10n 30n)
Vrow29 row29 0 PULSE(0 -0.0312425186133 0 0.001n 0.001n 10n 30n)
Vrow30 row30 0 PULSE(0 0.00490144604715 0 0.001n 0.001n 10n 30n)
Vrow31 row31 0 PULSE(0 -0.0486440726194 0 0.001n 0.001n 10n 30n)
Vrow32 row32 0 PULSE(0 0.0329014842094 0 0.001n 0.001n 10n 30n)
Vrow33 row33 0 PULSE(0 -0.0215125046573 0 0.001n 0.001n 10n 30n)
Vrow34 row34 0 PULSE(0 0.0334753001677 0 0.001n 0.001n 10n 30n)
Vrow35 row35 0 PULSE(0 0.000584098785186 0 0.001n 0.001n 10n 30n)
Vrow36 row36 0 PULSE(0 -0.00521930601989 0 0.001n 0.001n 10n 30n)
Vrow37 row37 0 PULSE(0 -0.00884844390169 0 0.001n 0.001n 10n 30n)
Vrow38 row38 0 PULSE(0 -0.000708532021708 0 0.001n 0.001n 10n 30n)
Vrow39 row39 0 PULSE(0 0.0844310363355 0 0.001n 0.001n 10n 30n)
Vrow40 row40 0 PULSE(0 -0.0202953622516 0 0.001n 0.001n 10n 30n)
Vrow41 row41 0 PULSE(0 -0.01385065162 0 0.001n 0.001n 10n 30n)
Vrow42 row42 0 PULSE(0 -0.0167505700064 0 0.001n 0.001n 10n 30n)
Vrow43 row43 0 PULSE(0 -0.0455758763838 0 0.001n 0.001n 10n 30n)
Vrow44 row44 0 PULSE(0 -0.0297459533812 0 0.001n 0.001n 10n 30n)
Vrow45 row45 0 PULSE(0 0.00222228108355 0 0.001n 0.001n 10n 30n)
Vrow46 row46 0 PULSE(0 -0.0186704966144 0 0.001n 0.001n 10n 30n)
Vrow47 row47 0 PULSE(0 -0.0145333629927 0 0.001n 0.001n 10n 30n)
Vrow48 row48 0 PULSE(0 -0.045142644716 0 0.001n 0.001n 10n 30n)
Vrow49 row49 0 PULSE(0 0.0242083831702 0 0.001n 0.001n 10n 30n)
Vrow50 row50 0 PULSE(0 0.00192325534179 0 0.001n 0.001n 10n 30n)
Vrow51 row51 0 PULSE(0 -0.0131957124737 0 0.001n 0.001n 10n 30n)
Vrow52 row52 0 PULSE(0 -0.027602858083 0 0.001n 0.001n 10n 30n)
Vrow53 row53 0 PULSE(0 -0.00361702262987 0 0.001n 0.001n 10n 30n)
Vrow54 row54 0 PULSE(0 0.048426999843 0 0.001n 0.001n 10n 30n)
Vrow55 row55 0 PULSE(0 -0.00768169823252 0 0.001n 0.001n 10n 30n)
Vrow56 row56 0 PULSE(0 0.0367588150561 0 0.001n 0.001n 10n 30n)
Vrow57 row57 0 PULSE(0 -0.0280796750319 0 0.001n 0.001n 10n 30n)
Vrow58 row58 0 PULSE(0 -0.0349311590237 0 0.001n 0.001n 10n 30n)
Vrow59 row59 0 PULSE(0 -0.0360538415471 0 0.001n 0.001n 10n 30n)
Vrow60 row60 0 PULSE(0 0.0128191040112 0 0.001n 0.001n 10n 30n)
Vrow61 row61 0 PULSE(0 0.0331993470912 0 0.001n 0.001n 10n 30n)
Vrow62 row62 0 PULSE(0 0.0346391476835 0 0.001n 0.001n 10n 30n)
Vrow63 row63 0 PULSE(0 0.0400988569074 0 0.001n 0.001n 10n 30n)
Vrow64 row64 0 PULSE(0 -0.0351150440523 0 0.001n 0.001n 10n 30n)
Vrow65 row65 0 PULSE(0 -0.00021249563666 0 0.001n 0.001n 10n 30n)
Vrow66 row66 0 PULSE(0 0.0235669162945 0 0.001n 0.001n 10n 30n)
Vrow67 row67 0 PULSE(0 -0.0151401558023 0 0.001n 0.001n 10n 30n)
Vrow68 row68 0 PULSE(0 0.00243273530779 0 0.001n 0.001n 10n 30n)
Vrow69 row69 0 PULSE(0 -0.0163810759539 0 0.001n 0.001n 10n 30n)
Vrow70 row70 0 PULSE(0 -0.0527074426721 0 0.001n 0.001n 10n 30n)
Vrow71 row71 0 PULSE(0 -0.0118876393549 0 0.001n 0.001n 10n 30n)
Vrow72 row72 0 PULSE(0 -0.00063547604408 0 0.001n 0.001n 10n 30n)
Vrow73 row73 0 PULSE(0 0.00613128199643 0 0.001n 0.001n 10n 30n)
Vrow74 row74 0 PULSE(0 -0.0368323074724 0 0.001n 0.001n 10n 30n)
Vrow75 row75 0 PULSE(0 0.0257971687644 0 0.001n 0.001n 10n 30n)
Vrow76 row76 0 PULSE(0 -0.0130421513521 0 0.001n 0.001n 10n 30n)
Vrow77 row77 0 PULSE(0 -0.0164581134402 0 0.001n 0.001n 10n 30n)
Vrow78 row78 0 PULSE(0 -0.0022911894296 0 0.001n 0.001n 10n 30n)
Vrow79 row79 0 PULSE(0 -0.0318807785228 0 0.001n 0.001n 10n 30n)
Vrow80 row80 0 PULSE(0 0.0341864901028 0 0.001n 0.001n 10n 30n)
Vrow81 row81 0 PULSE(0 -0.00188100699407 0 0.001n 0.001n 10n 30n)
Vrow82 row82 0 PULSE(0 0.0296036618331 0 0.001n 0.001n 10n 30n)
Vrow83 row83 0 PULSE(0 -0.0195521076764 0 0.001n 0.001n 10n 30n)
Vrow84 row84 0 PULSE(0 0.0343296654076 0 0.001n 0.001n 10n 30n)
Vrow85 row85 0 PULSE(0 0.0395418791951 0 0.001n 0.001n 10n 30n)
Vrow86 row86 0 PULSE(0 -0.0318477849338 0 0.001n 0.001n 10n 30n)
Vrow87 row87 0 PULSE(0 0.00918698554221 0 0.001n 0.001n 10n 30n)
Vrow88 row88 0 PULSE(0 0.0386697685193 0 0.001n 0.001n 10n 30n)
Vrow89 row89 0 PULSE(0 0.0278197852404 0 0.001n 0.001n 10n 30n)
Vrow90 row90 0 PULSE(0 -0.0140245023261 0 0.001n 0.001n 10n 30n)
Vrow91 row91 0 PULSE(0 0.00723984826163 0 0.001n 0.001n 10n 30n)
Vrow92 row92 0 PULSE(0 0.0131644922566 0 0.001n 0.001n 10n 30n)
Vrow93 row93 0 PULSE(0 -0.0314284657412 0 0.001n 0.001n 10n 30n)
Vrow94 row94 0 PULSE(0 -0.028726603458 0 0.001n 0.001n 10n 30n)
Vrow95 row95 0 PULSE(0 -0.0572372220978 0 0.001n 0.001n 10n 30n)
Vrow96 row96 0 PULSE(0 -0.0217756348906 0 0.001n 0.001n 10n 30n)
Vrow97 row97 0 PULSE(0 -0.00311157480449 0 0.001n 0.001n 10n 30n)
Vrow98 row98 0 PULSE(0 -0.0174091563235 0 0.001n 0.001n 10n 30n)
Vrow99 row99 0 PULSE(0 0.03287477065 0 0.001n 0.001n 10n 30n)
Vrow100 row100 0 PULSE(0 -0.0191295195878 0 0.001n 0.001n 10n 30n)
Vrow101 row101 0 PULSE(0 0.00734133802796 0 0.001n 0.001n 10n 30n)
Vrow102 row102 0 PULSE(0 -0.0146237974295 0 0.001n 0.001n 10n 30n)
Vrow103 row103 0 PULSE(0 -0.0295934149402 0 0.001n 0.001n 10n 30n)
Vrow104 row104 0 PULSE(0 -0.00257677930549 0 0.001n 0.001n 10n 30n)
Vrow105 row105 0 PULSE(0 -0.00450858516219 0 0.001n 0.001n 10n 30n)
Vrow106 row106 0 PULSE(0 -0.0106987503879 0 0.001n 0.001n 10n 30n)
Vrow107 row107 0 PULSE(0 -0.0325117072676 0 0.001n 0.001n 10n 30n)
Vrow108 row108 0 PULSE(0 0.00264226497675 0 0.001n 0.001n 10n 30n)
Vrow109 row109 0 PULSE(0 -0.0193354566931 0 0.001n 0.001n 10n 30n)
Vrow110 row110 0 PULSE(0 0.049810009015 0 0.001n 0.001n 10n 30n)
Vrow111 row111 0 PULSE(0 0.0301782778592 0 0.001n 0.001n 10n 30n)
Vrow112 row112 0 PULSE(0 -0.00199607803606 0 0.001n 0.001n 10n 30n)
Vrow113 row113 0 PULSE(0 -0.0217939694977 0 0.001n 0.001n 10n 30n)
Vrow114 row114 0 PULSE(0 0.0389208826722 0 0.001n 0.001n 10n 30n)
Vrow115 row115 0 PULSE(0 -0.0308056381009 0 0.001n 0.001n 10n 30n)
Vrow116 row116 0 PULSE(0 0.0262072001411 0 0.001n 0.001n 10n 30n)
Vrow117 row117 0 PULSE(0 0.0138757198518 0 0.001n 0.001n 10n 30n)
Vrow118 row118 0 PULSE(0 -0.00642674593028 0 0.001n 0.001n 10n 30n)
Vrow119 row119 0 PULSE(0 -0.0174997999831 0 0.001n 0.001n 10n 30n)
Vrow120 row120 0 PULSE(0 0.0306532369101 0 0.001n 0.001n 10n 30n)
Vrow121 row121 0 PULSE(0 0.0231216149853 0 0.001n 0.001n 10n 30n)
Vrow122 row122 0 PULSE(0 -0.0212825169797 0 0.001n 0.001n 10n 30n)
Vrow123 row123 0 PULSE(0 0.0354281149165 0 0.001n 0.001n 10n 30n)
Vrow124 row124 0 PULSE(0 -0.00264833850365 0 0.001n 0.001n 10n 30n)
Vrow125 row125 0 PULSE(0 -0.0442207055526 0 0.001n 0.001n 10n 30n)
Vrow126 row126 0 PULSE(0 0.0434571831522 0 0.001n 0.001n 10n 30n)
Vrow127 row127 0 PULSE(0 0.000845766708444 0 0.001n 0.001n 10n 30n)
Reqrow0 row0 0 135.487117027
Reqrow1 row1 0 384.781622062
Reqrow2 row2 0 156.766807307
Reqrow3 row3 0 47.9117810185
Reqrow4 row4 0 386.332183462
Reqrow5 row5 0 308.568170996
Reqrow6 row6 0 388.968276697
Reqrow7 row7 0 189.112303959
Reqrow8 row8 0 156.164140402
Reqrow9 row9 0 48.1034159183
Reqrow10 row10 0 67.535743385
Reqrow11 row11 0 104.35790981
Reqrow12 row12 0 329.623225634
Reqrow13 row13 0 41.8189177348
Reqrow14 row14 0 223.37784033
Reqrow15 row15 0 347.796738199
Reqrow16 row16 0 57.8997560507
Reqrow17 row17 0 40.576385522
Reqrow18 row18 0 238.199668562
Reqrow19 row19 0 371.704396836
Reqrow20 row20 0 310.864758455
Reqrow21 row21 0 384.388206486
Reqrow22 row22 0 46.4414242004
Reqrow23 row23 0 60.5578610621
Reqrow24 row24 0 176.034939941
Reqrow25 row25 0 388.666883745
Reqrow26 row26 0 284.15276182
Reqrow27 row27 0 64.8927681788
Reqrow28 row28 0 284.090487277
Reqrow29 row29 0 333.276515529
Reqrow30 row30 0 174.182955407
Reqrow31 row31 0 357.366877579
Reqrow32 row32 0 245.592398872
Reqrow33 row33 0 113.907378237
Reqrow34 row34 0 40.0583484237
Reqrow35 row35 0 120.461183687
Reqrow36 row36 0 48.5363651888
Reqrow37 row37 0 32.8229527366
Reqrow38 row38 0 152.276017487
Reqrow39 row39 0 31.9607498546
Reqrow40 row40 0 55.1147787352
Reqrow41 row41 0 265.447120021
Reqrow42 row42 0 39.1398516991
Reqrow43 row43 0 358.49093685
Reqrow44 row44 0 156.716765806
Reqrow45 row45 0 120.631749386
Reqrow46 row46 0 209.813851758
Reqrow47 row47 0 308.82845966
Reqrow48 row48 0 344.531968945
Reqrow49 row49 0 93.5160148364
Reqrow50 row50 0 279.255945493
Reqrow51 row51 0 330.577916845
Reqrow52 row52 0 251.692384559
Reqrow53 row53 0 335.628565011
Reqrow54 row54 0 47.4832148992
Reqrow55 row55 0 241.926174949
Reqrow56 row56 0 48.9024666712
Reqrow57 row57 0 90.159206975
Reqrow58 row58 0 384.384232564
Reqrow59 row59 0 55.3406689802
Reqrow60 row60 0 148.935878526
Reqrow61 row61 0 271.939789537
Reqrow62 row62 0 76.9269497101
Reqrow63 row63 0 300.337537719
Reqrow64 row64 0 296.395041461
Reqrow65 row65 0 66.7495011297
Reqrow66 row66 0 73.9525764081
Reqrow67 row67 0 27.5461665426
Reqrow68 row68 0 45.8226933827
Reqrow69 row69 0 154.266013205
Reqrow70 row70 0 88.7347671631
Reqrow71 row71 0 138.239641648
Reqrow72 row72 0 265.856486348
Reqrow73 row73 0 141.460259195
Reqrow74 row74 0 70.9038960192
Reqrow75 row75 0 76.2807986339
Reqrow76 row76 0 51.2677164118
Reqrow77 row77 0 40.685858893
Reqrow78 row78 0 117.638991336
Reqrow79 row79 0 36.5358428809
Reqrow80 row80 0 340.473048504
Reqrow81 row81 0 318.463014268
Reqrow82 row82 0 110.356848558
Reqrow83 row83 0 365.951916343
Reqrow84 row84 0 69.0241036699
Reqrow85 row85 0 29.980392631
Reqrow86 row86 0 372.424972661
Reqrow87 row87 0 107.691743612
Reqrow88 row88 0 367.020868127
Reqrow89 row89 0 187.752919794
Reqrow90 row90 0 158.002088198
Reqrow91 row91 0 66.3762068902
Reqrow92 row92 0 332.275847974
Reqrow93 row93 0 88.810689164
Reqrow94 row94 0 162.035736082
Reqrow95 row95 0 309.709696196
Reqrow96 row96 0 374.641274991
Reqrow97 row97 0 53.5901583726
Reqrow98 row98 0 386.846524259
Reqrow99 row99 0 261.790763467
Reqrow100 row100 0 56.036593307
Reqrow101 row101 0 330.833746999
Reqrow102 row102 0 83.652406859
Reqrow103 row103 0 136.513330433
Reqrow104 row104 0 240.495120058
Reqrow105 row105 0 375.61701014
Reqrow106 row106 0 86.1604428536
Reqrow107 row107 0 109.103371217
Reqrow108 row108 0 181.344070029
Reqrow109 row109 0 227.107109379
Reqrow110 row110 0 258.035109355
Reqrow111 row111 0 176.242774417
Reqrow112 row112 0 223.855028379
Reqrow113 row113 0 60.0003572656
Reqrow114 row114 0 371.65166002
Reqrow115 row115 0 393.475385485
Reqrow116 row116 0 193.687499663
Reqrow117 row117 0 307.971663567
Reqrow118 row118 0 78.4524071139
Reqrow119 row119 0 216.826672206
Reqrow120 row120 0 227.827342474
Reqrow121 row121 0 61.4304780112
Reqrow122 row122 0 83.6128468045
Reqrow123 row123 0 160.005495103
Reqrow124 row124 0 306.02976872
Reqrow125 row125 0 87.5609260677
Reqrow126 row126 0 122.010028449
Reqrow127 row127 0 115.035392137
Bpwr pwr 0 v = (v(row0)*v(row0)/135.487117027) + (v(row1)*v(row1)/384.781622062) + (v(row2)*v(row2)/156.766807307) + (v(row3)*v(row3)/47.9117810185) + (v(row4)*v(row4)/386.332183462) + (v(row5)*v(row5)/308.568170996) + (v(row6)*v(row6)/388.968276697) + (v(row7)*v(row7)/189.112303959) + (v(row8)*v(row8)/156.164140402) + (v(row9)*v(row9)/48.1034159183) + (v(row10)*v(row10)/67.535743385) + (v(row11)*v(row11)/104.35790981) + (v(row12)*v(row12)/329.623225634) + (v(row13)*v(row13)/41.8189177348) + (v(row14)*v(row14)/223.37784033) + (v(row15)*v(row15)/347.796738199) + (v(row16)*v(row16)/57.8997560507) + (v(row17)*v(row17)/40.576385522) + (v(row18)*v(row18)/238.199668562) + (v(row19)*v(row19)/371.704396836) + (v(row20)*v(row20)/310.864758455) + (v(row21)*v(row21)/384.388206486) + (v(row22)*v(row22)/46.4414242004) + (v(row23)*v(row23)/60.5578610621) + (v(row24)*v(row24)/176.034939941) + (v(row25)*v(row25)/388.666883745) + (v(row26)*v(row26)/284.15276182) + (v(row27)*v(row27)/64.8927681788) + (v(row28)*v(row28)/284.090487277) + (v(row29)*v(row29)/333.276515529) + (v(row30)*v(row30)/174.182955407) + (v(row31)*v(row31)/357.366877579) + (v(row32)*v(row32)/245.592398872) + (v(row33)*v(row33)/113.907378237) + (v(row34)*v(row34)/40.0583484237) + (v(row35)*v(row35)/120.461183687) + (v(row36)*v(row36)/48.5363651888) + (v(row37)*v(row37)/32.8229527366) + (v(row38)*v(row38)/152.276017487) + (v(row39)*v(row39)/31.9607498546) + (v(row40)*v(row40)/55.1147787352) + (v(row41)*v(row41)/265.447120021) + (v(row42)*v(row42)/39.1398516991) + (v(row43)*v(row43)/358.49093685) + (v(row44)*v(row44)/156.716765806) + (v(row45)*v(row45)/120.631749386) + (v(row46)*v(row46)/209.813851758) + (v(row47)*v(row47)/308.82845966) + (v(row48)*v(row48)/344.531968945) + (v(row49)*v(row49)/93.5160148364) + (v(row50)*v(row50)/279.255945493) + (v(row51)*v(row51)/330.577916845) + (v(row52)*v(row52)/251.692384559) + (v(row53)*v(row53)/335.628565011) + (v(row54)*v(row54)/47.4832148992) + (v(row55)*v(row55)/241.926174949) + (v(row56)*v(row56)/48.9024666712) + (v(row57)*v(row57)/90.159206975) + (v(row58)*v(row58)/384.384232564) + (v(row59)*v(row59)/55.3406689802) + (v(row60)*v(row60)/148.935878526) + (v(row61)*v(row61)/271.939789537) + (v(row62)*v(row62)/76.9269497101) + (v(row63)*v(row63)/300.337537719) + (v(row64)*v(row64)/296.395041461) + (v(row65)*v(row65)/66.7495011297) + (v(row66)*v(row66)/73.9525764081) + (v(row67)*v(row67)/27.5461665426) + (v(row68)*v(row68)/45.8226933827) + (v(row69)*v(row69)/154.266013205) + (v(row70)*v(row70)/88.7347671631) + (v(row71)*v(row71)/138.239641648) + (v(row72)*v(row72)/265.856486348) + (v(row73)*v(row73)/141.460259195) + (v(row74)*v(row74)/70.9038960192) + (v(row75)*v(row75)/76.2807986339) + (v(row76)*v(row76)/51.2677164118) + (v(row77)*v(row77)/40.685858893) + (v(row78)*v(row78)/117.638991336) + (v(row79)*v(row79)/36.5358428809) + (v(row80)*v(row80)/340.473048504) + (v(row81)*v(row81)/318.463014268) + (v(row82)*v(row82)/110.356848558) + (v(row83)*v(row83)/365.951916343) + (v(row84)*v(row84)/69.0241036699) + (v(row85)*v(row85)/29.980392631) + (v(row86)*v(row86)/372.424972661) + (v(row87)*v(row87)/107.691743612) + (v(row88)*v(row88)/367.020868127) + (v(row89)*v(row89)/187.752919794) + (v(row90)*v(row90)/158.002088198) + (v(row91)*v(row91)/66.3762068902) + (v(row92)*v(row92)/332.275847974) + (v(row93)*v(row93)/88.810689164) + (v(row94)*v(row94)/162.035736082) + (v(row95)*v(row95)/309.709696196) + (v(row96)*v(row96)/374.641274991) + (v(row97)*v(row97)/53.5901583726) + (v(row98)*v(row98)/386.846524259) + (v(row99)*v(row99)/261.790763467) + (v(row100)*v(row100)/56.036593307) + (v(row101)*v(row101)/330.833746999) + (v(row102)*v(row102)/83.652406859) + (v(row103)*v(row103)/136.513330433) + (v(row104)*v(row104)/240.495120058) + (v(row105)*v(row105)/375.61701014) + (v(row106)*v(row106)/86.1604428536) + (v(row107)*v(row107)/109.103371217) + (v(row108)*v(row108)/181.344070029) + (v(row109)*v(row109)/227.107109379) + (v(row110)*v(row110)/258.035109355) + (v(row111)*v(row111)/176.242774417) + (v(row112)*v(row112)/223.855028379) + (v(row113)*v(row113)/60.0003572656) + (v(row114)*v(row114)/371.65166002) + (v(row115)*v(row115)/393.475385485) + (v(row116)*v(row116)/193.687499663) + (v(row117)*v(row117)/307.971663567) + (v(row118)*v(row118)/78.4524071139) + (v(row119)*v(row119)/216.826672206) + (v(row120)*v(row120)/227.827342474) + (v(row121)*v(row121)/61.4304780112) + (v(row122)*v(row122)/83.6128468045) + (v(row123)*v(row123)/160.005495103) + (v(row124)*v(row124)/306.02976872) + (v(row125)*v(row125)/87.5609260677) + (v(row126)*v(row126)/122.010028449) + (v(row127)*v(row127)/115.035392137)
.control
set filetype=ascii
tran 0.05n 10.002n
meas tran energy INTEG v(pwr) FROM=0n TO=10.002n
wrdata experiments/spice/results/cmm_crosssim_read_energy/spice_validation/median_output_proj_r35c0.dat v(pwr)
quit
.endc
.end
